US05246948
Synthesis of 4-[3-(3-methylthenoylamino)propylthio]pyridine
In 100 ml of benzene was suspended 3.00 g (21.1 mmol) of 3-methyl-2-thiophenecarboxylic acid, oxalyl chloride [7.36 ml (84.4 mmol)] was added and the mixture was refluxed for 2 hours. After cooling, the solvent was distilled off to obtain 3.40 g of 3-methylthenoyl chloride (yield: quant.). To a solution of 1.50 g (6.23 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.61 ml (18.7 mmol) of triethylamine in 60 ml of methylene chloride, 1.20 ml (7.48 mmol) of the 3-methylthenoyl chloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain powder. The powder was washed with ether and dried to obtain 1.54 g of the desired compound (yield: 84.5%, pale yellow powder).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 6.23 mmol, 1.50 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 18.7 mmol, 2.61 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methylthenoyl chloride | 7.48 mmol, 1.20 ml | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(3-methylthenoylamino)propylthio]pyridine | 1.54 g, yield: 84.5% | CC1=C(SC=C1)C(=O)NCCCSC1=CC=NC=C1 | C14H16N2OS2
